US06121308
1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole
Prepared analogously to Example 3 from 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)CCC2=CC=C(C=C2)C(N)=N | C30H30N6O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)O)S(=O)(=O)C=2C=CC=C1C=CC=NC21)CCC2=CC=C(C=C2)C(N)=N | C28H26N6O4S
